US07994185B2
Step C: 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate
To a solution of 1,1-dimethylethyl 4-[4-(3-amino-2-fluorophenyl)-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate (200 mg, 0.397 mmol) in pyridine (2 mL) was added 2,6-difluorobenzenesulfonyl chloride (130 mg, 0.612 mmol) and the reaction mixture was stirred for 5 h. The reaction mixture was quenched with water (5 mL) and extracted with EtOAc (3×). The extract was dried, filtered and concentrated. The residue was purified using column chromatography (40 to 100% EtOAc/hexane) to obtain the title compound (220 mg). MS (ESI): 680.4 [M+1]+.

reactant | 1,1-dimethylethyl 4-[4-(3-amino-2-fluorophenyl)-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate | 0.397 mmol, 200 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)Cl)C1(CCN(CC1)C(=O)OC(C)(C)C)C)F | C24H27ClFN5O2S
reactant | 2,6-difluorobenzenesulfonyl chloride | 0.612 mmol, 130 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-4-methyl-1-piperidinecarboxylate | 220 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C30H29ClF3N5O4S2
